US05780498
To a cooled (0° C.) solution of 4-(1-imidazolyl)benzaldehyde (1.41 g, 8.16 mol) and ethyl azidoacetate (10.6 g, 81.7 mmol) in MeOH (50 ml) under nitrogen atmosphere is added sodium methoxide (28 wt. % solution in MeOH, 13,2 ml, 65 mmol) dropwise. Stirring is continued for 1.5 h. Then, the reaction mixture is diluted with brine (100 ml) and extracted with three portions of ether. The organic layer is dried over magnesium sulfate and concentrated in vacuo to give methyl 2-azido-3-[4-(1-imidazolyl)phenyl]-2-propenate.

reactant | 4-(1-imidazolyl)benzaldehyde | 8.16 mol, 1.41 g | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | ethyl azidoacetate | 81.7 mmol, 10.6 g | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | sodium methoxide | 65 mmol, 13,2 ml | C[O-].[Na+]
solvent | MeOH | 50 ml | CO | CH4O
solvent | brine | 100 ml | [Cl-].[Na+].O
product | methyl 2-azido-3-[4-(1-imidazolyl)phenyl]-2-propenate | N(=[N+]=[N-])C(C(=O)OC)=CC1=CC=C(C=C1)N1C=NC=C1 | C13H11N5O2
